US09108921B2
Step D: 4-(2-aminoquinoline-8-sulfonamido)benzoic acid (42E)
A mixture of 4-(2-amino-6-chloroquinoline-8-sulfonamido)benzoic acid (150 mg, 0.44 mmol), 10% Pd/C (20 mg) in methanol (5 mL) was stirred under H2 atmosphere overnight when LCMS indicated that the reaction was complete. The resulting mixture was filtered, and the filtrate was concentrated to yield 100 mg of title compound, which was used in the next step without further purification. LCMS (m/z): 344.6 (M+1)+

reactant | 4-(2-amino-6-chloroquinoline-8-sulfonamido)benzoic acid | 0.44 mmol, 150 mg | NC1=NC2=C(C=C(C=C2C=C1)Cl)S(=O)(=O)NC1=CC=C(C(=O)O)C=C1 | C16H12ClN3O4S
solvent | methanol | 5 mL | CO | CH4O
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | 4-(2-aminoquinoline-8-sulfonamido)benzoic acid | 100 mg | NC1=NC2=C(C=CC=C2C=C1)S(=O)(=O)NC1=CC=C(C(=O)O)C=C1 | C16H13N3O4S
